US07799822B2
To a solution of NaOH (5.19 g, 129.8 mmol) in water (10 mL) was added tetrabutylammonium bromide (0.35 g, 1.08 mmol), 5-chloro-1H-pyrrolo[2,3-b]pyridine (1.5 g, 9.83 mmol), toluene (60 mL) and methyl 3-bromopropanoate (9.8 g, 59 mmol). The reaction mixture was heated overnight at 100° C. The reaction was quenched with water, the layers were separated and the aqueous layer was extracted with DCM. The combined organic layers were dried over Na2SO4, filtered and concentrated. 3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-1-yl)propanoate solution in THF was treated with NaOH and stirred at RT for 5 hours. The reaction mixture was diluted with water and the pH was adjusted to 1 with 1N HCl to crash out the product. The reaction was then filtered, azeotroped with acetonitrile and dried to give 3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-1-yl)propanoic acid. (1.97 g, 90% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.25 (d, J=2.3 Hz, 1H), 8.09 (d, J=2.3 Hz, 1H), 7.64 (d, J=3.5 Hz, 1H), 6.46 (d, J=3.5 Hz, 1H), 4.46 (t, J=7.0 Hz, 2H), 2.82 (t, J=7.0 Hz, 3H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=225.3; tR=1.20 min.

reactant | NaOH | 129.8 mmol, 5.19 g | [OH-].[Na+]
reactant | 5-chloro-1H-pyrrolo[2,3-b]pyridine | 9.83 mmol, 1.5 g | ClC=1C=C2C(=NC1)NC=C2 | C7H5ClN2
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl 3-bromopropanoate | 59 mmol, 9.8 g | BrCCC(=O)OC | C4H7BrO2
solvent | water | 10 mL | O | H2O
catalyst | tetrabutylammonium bromide | 1.08 mmol, 0.35 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-1-yl)propanoic acid | 90% yield | ClC=1C=C2C(=NC1)N(C=C2)CCC(=O)O | C10H9ClN2O2
